US05153003
6,9-methylene-11,15-dihydroxy-20-isopropylideneprost-5,13-dienoic acid;
6,9-methylene-11,15-dihydroxy-17-methyl-20-isopropylideneprost-5,13-dienoic acid {otherwise known as 7-(4-carboxybutylidene)-3-hydroxy-2-(3-hydroxy-5,9-dimethyl-1,8-decadienyl)-[3.3.0]-bicyclooctane};

reactant | 6,9-methylene-11,15-dihydroxy-17-methyl-20-isopropylideneprost-5,13-dienoic acid | C1C(=CCCCC(=O)O)C[C@H]2C1CC([C@@H]2C=CC(CC(CCC=C(C)C)C)O)O | C25H40O4
reactant | bicyclooctane | C1(CCCCCCC1)C1CCCCCCC1 | C16H30
product | 6,9-methylene-11,15-dihydroxy-20-isopropylideneprost-5,13-dienoic acid | C1C(=CCCCC(=O)O)C[C@H]2C1CC([C@@H]2C=CC(CCCCC=C(C)C)O)O | C24H38O4
